US09120757B2
A mixture of benzyl 4-(4-(((2-(tert-butoxycarbonyl(methyl)amino)ethyl)(methyl)amino)methyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-3-yl)-5,6-dihydropyridine-1(2H)-carboxylate (2 g, 3.52 mmol, 1.00 equiv) and 10% palladium on carbon (2 g) catalyst in methanol (100 mL) was stirred under 1 atmosphere of hydrogen at room temperature for 6 h. The catalyst was removed by filtration and the filtrate was concentrated under vacuum to yield 1.1 g (72%) of (R/S) tert-butyl methyl(2-(methyl-((3-(piperidin-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)amino)ethyl)carbamate as a brown oil. 1H-NMR (300 MHz, CDCl3): δ 7.46 (s, 1H), 5.33-5.32 (m, 1H), 4.24-4.06 (m, 1H), 3.75-3.66 (m, 1H), 3.51 (s, 1H), 3.41-3.15 (m, 6H), 2.95-2.70 (m, 6H), 2.62-2.40 (m, 2H), 2.22 (s, 3H), 1.55-1.41 (m, 10H), 1.35-1.21 (m, 1H) ppm. LCMS (method A, ESI): RT=1.49 min, m/z=436.2 [M+H]+.

reactant | benzyl 4-(4-(((2-(tert-butoxycarbonyl(methyl)amino)ethyl)(methyl)amino)methyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-3-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 3.52 mmol, 2 g, 1.00 equiv | C(C)(C)(C)OC(=O)N(CCN(C)CC=1C(=NN(C1)C1OCCCC1)C1=CCN(CC1)C(=O)OCC1=CC=CC=C1)C | C31H45N5O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 2 g | [Pd] | Pd
solvent | methanol | 100 mL | CO | CH4O
product | (R/S) tert-butyl methyl(2-(methyl-((3-(piperidin-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)amino)ethyl)carbamate | 1.1 g, 72% | CN(C(OC(C)(C)C)=O)CCN(CC=1C(=NN(C1)C1OCCCC1)C1CCNCC1)C | C23H41N5O3
